US09326973B2
To a solution of ethyl 5-oxooctahydropentalene-2-carboxylate (210 mg) in DCM (5 mL) cooled to −78° C. were added slowly trimethylsilyl trifluoromethanesulfonate (11.89 mg, 0.054 mmol) and 2,2,7,7-tetramethyl-3,6-dioxa-2,7-disilaoctane (287 mg, 1.391 mmol) under nitrogen. After stirring at −78° C. for 30 min, the reaction mixture was warmed to rt and stirred at rt for 16 h. The reaction was quenched with anhydrous pyridine at −78° C. followed by sat. NaHCO3, and then extracted with EtOAc. The combined organic layers were dried over anhydrous MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography to afford ethyl hexahydro-1′H-spiro[[1,3]dioxolane-2,2′-pentalene]-5′-carboxylate (a mixture of endo/exo isomers) as a clear oil.

reactant | ethyl 5-oxooctahydropentalene-2-carboxylate | 210 mg | O=C1CC2CC(CC2C1)C(=O)OCC | C11H16O3
reactant | trimethylsilyl trifluoromethanesulfonate | 0.054 mmol, 11.89 mg | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | 2,2,7,7-tetramethyl-3,6-dioxa-2,7-disilaoctane | 1.391 mmol, 287 mg | C[Si](C)(OCCO[Si](C)(C)C)C | C8H22O2Si2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | ethyl hexahydro-1′H-spiro[[1,3]dioxolane-2,2′-pentalene]-5′-carboxylate | C1C2(CC3CC(CC13)C(=O)OCC)OCCO2 | C13H20O4
